US05834615
A solution comprising 54.1% by weight of phenol, 45.3% by weight of dimethyl oxalate and 0.5% by weight of tetraphenoxytitanium was fed into the twelfth step from the top of a first fifty-plate Oldershaw-type reactive distillation column provided with a one liter bottom flask and having an inner diameter of 32 mm, at a flow rate of 600 ml/hr, and the bottom flask was heated by a mantle heater to a temperature of 190° C., while withdrawing a resultant vapor fraction from the top portion of the first column at a reflux ratio of 2 and condensing the withdrawn vapor fraction by a cooler, to transesterify dimethyl oxalate with phenol and to produce diphenyl oxalate.

reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | dimethyl oxalate | C(C(=O)OC)(=O)OC | C4H6O4
catalyst | tetraphenoxytitanium | O(C1=CC=CC=C1)[Ti](OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1
product | diphenyl oxalate | C(C(=O)OC1=CC=CC=C1)(=O)OC1=CC=CC=C1 | C14H10O4
